US03956494
Alternatively, 2-methoxy-N,N-dimethyl-2-(2-pyridyl)acetamide is prepared by the following procedure. 2-Methoxy-2-(2-pyridyl)acetyl chloride hydrochloride, 22 g. [prepared by reacting 2-methoxy-2-(2-pyridyl)acetic acid in benzene with thionyl chloride] in 100 ml. of chloroform is added dropwise and with cooling to 50 g. of dimethylamine in 100 ml. of chloroform. The mixture is stirred for four hours, then 50 ml. of 5% aqueous sodium hydroxide is added and the chloroform solution is dried and concentrated to give 2-methoxy-N,N-dimethyl-2-(2-pyridyl)acetamide.

reactant | 2-Methoxy-2-(2-pyridyl)acetyl chloride hydrochloride | Cl.COC(C(=O)Cl)C1=NC=CC=C1
reactant | 2-methoxy-2-(2-pyridyl)acetic acid | COC(C(=O)O)C1=NC=CC=C1 | C8H9NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxy-N,N-dimethyl-2-(2-pyridyl)acetamide | COC(C(=O)N(C)C)C1=NC=CC=C1 | C10H14N2O2
